US06127541
2-(3-Hydroxymethylpiperidino)benzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 2-fluorobenzonitrile and 3-(hydroxymethyl)piperidine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 3-(hydroxymethyl)piperidine | OCC1CNCCC1 | C6H13NO
product | 2-(3-Hydroxymethylpiperidino)benzonitrile | OCC1CN(CCC1)C1=C(C#N)C=CC=C1 | C13H16N2O
